US07276526B2
Commercially available 2-chloro-5-methylphenol (19.8 g, 70 mmol) was dissolved in 450 ml acetone. Potassium carbonate (28.9 g, 209 mmol) was added, followed by iodomethane (29.7 g, 209 mmol), and the mixture was refluxed overnight with vigorous stirring. The mixture was then filtered and concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with water, dried with sodium sulfate, and concentrated giving 8.5 g 4-Chloro-2-methoxy-1-methyl-benzene (100%). 1H NMR (300 MHz, CDCl3) •2.28 (s, CH3, 3H), 3.92 (s, —OCH3, 3H), 6.91 (d, Ar, 1H, J=2.0 Hz), 6.95 (dd, Ar, 1H, J=8.0, 2.0 Hz), 7.14 (m, Ar, 1H).

reactant | 2-chloro-5-methylphenol | 70 mmol, 19.8 g | ClC1=C(C=C(C=C1)C)O | C7H7ClO
reactant | Potassium carbonate | 209 mmol, 28.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 209 mmol, 29.7 g | IC | CH3I
solvent | acetone | 450 ml | CC(=O)C | C3H6O
product | 4-Chloro-2-methoxy-1-methyl-benzene | 8.5 g, 100% | ClC1=CC(=C(C=C1)C)OC | C8H9ClO
